US04321374
2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-n-dodecylamino-1,3,5-triazine
Following the procedure of Example 1, 2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine (5.2 g) was reacted with dodecylamine (2.8 g) to afford an oily product. It was treated with alumina column chromatography (eluent=ethyl acetate:methanol=10:1) and the resulting crystals were recrystallized from n-hexane to afford the desired product as white crystals melting at 107°-109° C.

reactant | 2,4-bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine | 5.2 g | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)Cl)C1CC(NC(C1)(C)C)(C)C | C25H46ClN7O2
reactant | dodecylamine | 2.8 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-n-dodecylamino-1,3,5-triazine | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCCCCCCCCCCCC)C1CC(NC(C1)(C)C)(C)C | C37H72N8O2
